US07507740B2
(i) Production of 3,5-dihydroxy-3-methylpentyl benzoate
A solution of 3-methyl-1,3,5-pentanetriol (21.9 g), benzoic anhydride (7.39 g), pyridine (4.0 mL) and 4-(N,N-dimethylamino)pyridine (0.39 g) in acetonitrile (200 mL) was stirred at room temperature for 2 days. After concentration under reduced pressure, water was added, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→ethyl acetate) to give the title compound (4.27 g) as a colorless oil.

reactant | 3-methyl-1,3,5-pentanetriol | 21.9 g | CC(CCO)(CCO)O | C6H14O3
reactant | benzoic anhydride | 7.39 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | pyridine | 4.0 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 0.39 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 3,5-dihydroxy-3-methylpentyl benzoate | 4.27 g | C(C1=CC=CC=C1)(=O)OCCC(CCO)(C)O | C13H18O4
